US05157041
In a manner analogous to that described in Example 21, from 223 mg of N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester, 77 mg of phenylacetyl chloride and 65 mg of diisopropylethylamine there were obtained 190 mg of N-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(phenylacetyl)-L-asparaginyl]amino]butyl]-L-proline tert.butyl ester as a white solid (from ethyl acetate/n-hexane); MS: m/e 567 [M+H]+.

reactant | N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 223 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O)O)=O | C23H36N4O5
reactant | phenylacetyl chloride | 77 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | diisopropylethylamine | 65 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | N-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(phenylacetyl)-L-asparaginyl]amino]butyl]-L-proline tert.butyl ester | 190 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(CC1=CC=CC=C1)=O)CC(N)=O)=O)O)=O | C31H42N4O6
